US05208247
N-(3-Pyridinylmethyl)acetamide
The title compound is prepared by the procedure of Example 12 using 50 g of 3-(aminomethyl)pyridine, 50.2 ml of acetic anhydride, 2.26 g of 4-dimethylaminopyridine and 150 ml of pyridine without heating at reflux. The residue is purified by column chromatography (silica gel:20% methyl alcohol/ethyl acetate) to give 31.8 g of the desired product as a yellow oil.

reactant | 3-(aminomethyl)pyridine | 50 g | NCC=1C=NC=CC1 | C6H8N2
reactant | acetic anhydride | 50.2 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 2.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-Pyridinylmethyl)acetamide | 31.8 g | N1=CC(=CC=C1)CNC(C)=O | C8H10N2O
